US06008229
To a suspension of 8-(2,6-dichloro-3-carboxybenzyloxy)-2-methylquinoline (800 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (508 mg) and 1-hydroxybenzotriazole (388 mg) in N,N-dimethylformamide (8 ml) was added N-(2-aminoethyl)phthalimide hydrochloride (551 mg), and the mixture was stirred for 3 hours at ambient temperature. To the reaction mixture was added saturated sodium bicarbonate solution, and the mixture was extracted with chloroform. The insoluble material was filtered off, and the filtrate was washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was crystallized from ethyl acetate to give 8-[2,6-dichloro-3-[N-(2-phthalimidoethyl)carbamoyl]benzyloxy]-2-methylquinoline (1.04 g) as colorless crystals.

reactant | 8-(2,6-dichloro-3-carboxybenzyloxy)-2-methylquinoline | 800 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1C(=O)O)Cl | C18H13Cl2NO3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 508 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 388 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(2-aminoethyl)phthalimide hydrochloride | 551 mg | Cl.NCCN1C(C=2C(C1=O)=CC=CC2)=O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 8-[2,6-dichloro-3-[N-(2-phthalimidoethyl)carbamoyl]benzyloxy]-2-methylquinoline | 1.04 g | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1C(NCCN1C(C=2C(C1=O)=CC=CC2)=O)=O)Cl | C28H21Cl2N3O4
